US06143764
3,5-dimethoxy toluene
Commercially available orcinol (5.77 g) was dissolved in acetonitrile (200 ml), dimethyl sulfate (8.47 ml) and potassium carbonate (12.3 g) were added, and the admixture was refluxed for 2.5 hours. The reaction mixture was poured into ice water and partitioned with chloroform, and the chloroform layer was dried with anhydrous magnesium sulfate. The solvent was removed by reduced-pressure distillation, and the resulting residue was purified by column chromatography on silica gel eluting with hexane/ethyl acetate (5/1) to obtain 5.04 g of the title compound (yield: 82%).

reactant | orcinol | 5.77 g | C1(=CC(O)=CC(C)=C1)O | C7H8O2
reactant | dimethyl sulfate | 8.47 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium carbonate | 12.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 3,5-dimethoxy toluene | 5.04 g, yield: 82% | COC=1C=C(C=C(C1)OC)C | C9H12O2
